US07977358B2
A] (trans)-4-Pyrrolidin-1-yl-piperidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-ethyl ester
To a solution of 1-benzyl-4-oxo-piperidine-2-carboxylic acid ethyl ester (0.8 g, 3 mmol) (Tetrahedron 2001, 57, 4995) in CH2Cl2 (10 ml) was added pyrrolidine (0.3 ml, 4 mmol), acetic acid (0.2 ml, 4 mmol) and sodium triacetoxyborohydride (0.8 g, 4 mmol) and the mixture stirred for 1 h, after which time it was washed with saturated sodium hydrogen carbonate solution, dried (Na2SO4) and concentrated. The residue was redissolved in MeOH (10 ml), Boc anhydride (0.8 g, 3 mmol), 10% palladium on charcoal (0.1 g) were added and the mixture stirred under an atmosphere of hydrogen for 16 h. The reaction was filtered over Hyflo and concentrated. Flash column chromatography (CH2Cl2:MeOH 98:2-9:1) afforded the title product (0.5 g, 48%) as a yellow oil. MS: 327.3 (MH+).

reactant | 1-benzyl-4-oxo-piperidine-2-carboxylic acid ethyl ester | 3 mmol, 0.8 g | C(C)OC(=O)C1N(CCC(C1)=O)CC1=CC=CC=C1 | C15H19NO3
reactant | pyrrolidine | 4 mmol, 0.3 ml | N1CCCC1 | C4H9N
reactant | acetic acid | 4 mmol, 0.2 ml | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 4 mmol, 0.8 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | Boc anhydride | 3 mmol, 0.8 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
catalyst | palladium on charcoal | 0.1 g | [Pd] | Pd
product | (trans)-4-Pyrrolidin-1-yl-piperidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-ethyl ester | 0.5 g, 48% | CCOC(=O)[C@@H]1N(CC[C@H](C1)N1CCCC1)C(=O)OC(C)(C)C | C17H30N2O4
